US07511041B2
To a solution of (Z-2-(8,9-dimethoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl)-1-(3-pyridinyl)ethenol (16.8 mg, 0.05 mmol)) in dioxane (15 ml) at room temperature was added aqueous 6N HCl solution (0.05 ml). After being stirred for 30 minutes, the mixture was dried under reduced pressure to give (Z)-2-(8,9-dimethoxy-2,3-di-hydroimidazo[1,2-c]quinazolin-5-yl)-1-(3-pyridinyl)ethenol hydrochloride (18.5 mg, quantitative) as a yellow solid.

reactant | Z-2-(8,9-dimethoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl)-1-(3-pyridinyl)ethenol | 0.05 mmol, 16.8 mg | COC=1C(=CC=2C=3N(C(=NC2C1)\C=C(/O)\C=1C=NC=CC1)CCN3)OC | C19H18N4O3
reactant | HCl | 6N, 0.05 ml | Cl | ClH
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | (Z)-2-(8,9-dimethoxy-2,3-di-hydroimidazo[1,2-c]quinazolin-5-yl)-1-(3-pyridinyl)ethenol hydrochloride | 18.5 mg | Cl.COC=1C(=CC=2C=3N(C(=NC2C1)\C=C(/O)\C=1C=NC=CC1)CCN3)OC | InChI=1S/C19H18N4O3.ClH/c1-25-16-8-13-14(9-17(16)26-2)22-18(23-7-6-21-19(13)23)10-15(24)12-4-3-5-20-11-12;/h3-5,8-11,24H,6-7H2,1-2H3;1H/b15-10-;
